US05202456
N-benzoyl-S-farnesylcysteine
S-farnesylcysteine was dissolved in dry ethyl acetate/triethylamine in a dry flask under nitrogen. equivalents of benzoylchloride was added in the cold and the suspension was allowed to stir for an hour. The solution was neutralized with dilute HCl. After evaporation, the product was applied to a preparative thin layer chromatography plate and eluted with hexane/ethyl acetate. The pure product was removed from the plate and eluted with methanol. Yields were in the range of 50-75%. The product showed the anticipated nmr and infrared spectra. The parent acid was prepared from the ester by the addition of one equivalent of sodium hydroxide in methanol. The product showed the expected nmr and infrared spectra.

reactant | S-farnesylcysteine | C(C=C(C)CCC=C(C)CCC=C(C)C)SC[C@H](N)C(=O)O | C18H31NO2S
reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | Cl | ClH
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
solvent | ethyl acetate triethylamine | C(C)(=O)OCC.C(C)N(CC)CC
solvent | methanol | CO | CH4O
product | N-benzoyl-S-farnesylcysteine | C(C1=CC=CC=C1)(=O)N[C@@H](CSCC=C(C)CCC=C(C)CCC=C(C)C)C(=O)O | C25H35NO3S
